US08039463B2
DMAP (104 mg, 0.85 mmol) was added to 3-[4-(2-bromo-benzoyl)-piperazin-1-yl]-3-oxo-propionic acid (167 mg, 0.47 mmol) in DMF (2 mL) followed by EDCI (90 mg, 0.47 mmol) and HOBT (63 mg, 0.47 mmol). After 2 minutes, 4-thiophen-3-yl-phenylamine (75 mg, 0.43 mmol) was added and stirring was continued at room temperature overnight. Cold water was added and the formed precipitate was collected. Purification by preparative HPLC afforded 42 mg (19.2% yield) of 3-[4-(2-bromo-benzoyl)-piperazin-1-yl]-3-oxo-N-(4-thiophen-3-yl-phenyl)-propionamide. LC/MS [M+H]+: 512.06, 93.02%. 1H NMR (300 MHz, CDCl3): δ 9.6 (d, 1H), 7.85-7.5 (m, 5H), 7.46-7.34 (m, 4H), 7.34-7.26 (m, 2H), 4.09-3.9 (m, 2H), 3.82-3.64 (m, 4H), 3.58-3.52 (s, 1H), 3.5-3.44 (s, 1H), 3.42-3.32 (m, 1H), 3.3-3.18 (m, 1H).

reactant | 3-[4-(2-bromo-benzoyl)-piperazin-1-yl]-3-oxo-propionic acid | 0.47 mmol, 167 mg | BrC1=C(C(=O)N2CCN(CC2)C(CC(=O)O)=O)C=CC=C1 | C14H15BrN2O4
reactant | EDCI | 0.47 mmol, 90 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 0.47 mmol, 63 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 4-thiophen-3-yl-phenylamine | 0.43 mmol, 75 mg | S1C=C(C=C1)C1=CC=C(C=C1)N | C10H9NS
catalyst | DMAP | 0.85 mmol, 104 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-[4-(2-bromo-benzoyl)-piperazin-1-yl]-3-oxo-N-(4-thiophen-3-yl-phenyl)-propionamide | 42 mg, 19.2% yield | BrC1=C(C(=O)N2CCN(CC2)C(CC(=O)NC2=CC=C(C=C2)C2=CSC=C2)=O)C=CC=C1 | C24H22BrN3O3S
